US06350870B2
Lorazepam ethanol solvate (100 g) was suspended in a 1:1 mixture of ethyl acetate and cyclohexane (800 ml). The suspension was heated to 60° C. for 1 hour with rapid stirring and then cooled to 15° C. The cooled suspension was filtered to recover the lorazepam crystals and the crystals were then washed with ethyl acetate (20 ml). The crystals were dried at 50° C. under 65 mm Hg vacuum for two hours to give crystalline lorazepam (85 g, 90%).

reactant | Lorazepam ethanol | 100 g | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl.C(C)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | 800 ml | C1CCCCC1 | C6H12
product | lorazepam | 85 g, 90% | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl | C15H10Cl2N2O2
